US05808062
Methyl-[4-(1-oxoethyl)phenoxy] Acetate.
A mixture of 4-hydroxypropiophenone (10.0 g, 60.24 mmol), CsCO3 (21.6 g, 66.3 mmol), and acetone (150.0 mL) under an N2 atmosphere was treated with methylbromoacetate (7.26 mL, 78.3 mmol) and the mixture heated to reflux for 4 h. The mixture was then allowed to cool to ambient temperature, diluted with H2O (150 mL) and extracted with CH2 Cl2 (2×300 mL). The organic layers were combined, dried with Na2SO4, and the solvent removed in vacuo to provide the title compound (12.75 g, m.p. 64°-66° C.). 1H NMR (400 MHz, DMSO-d6) δ 9.35 (d, 2 H, J=8.9 Hz), 7.040 (d, 2 H, J=8.9 Hz), 4.920 (s, 2 H), 3.715 (s, 3 H), 2.981 (q, 2 H, J=7.2 Hz), 1.071 (t, 3 H, J=7.2 Hz).

reactant | 4-hydroxypropiophenone | 60.24 mmol, 10.0 g | CCC(=O)C1=CC=C(C=C1)O | C9H10O2
reactant | acetone | 150.0 mL | CC(=O)C | C3H6O
reactant | methylbromoacetate | 78.3 mmol, 7.26 mL | COC(CBr)=O | C3H5BrO2
solvent | H2O | 150 mL | O | H2O
product | Methyl-[4-(1-oxoethyl)phenoxy] Acetate | 12.75 g | C(C)(=O)OOC1=C(C=C(C=C1)C(C)=O)C | C11H12O4
